US07067179B1
2-iodo-7-propyl-phenanthrene in dimethylformamide and triethylamine was reacted with 4-ethynyl-1,2-difluorobenzene in the presence of tetrakis(triphenylphosphine)palladium (0), and the product was purified by silica gel column chromatography (hexane) and then recrystallized from ethanol to yield 2-propyl-7-(3,4-difluorophenylethynyl)phenanthrene.

reactant | 2-iodo-7-propyl-phenanthrene | IC1=CC=2C=CC3=CC(=CC=C3C2C=C1)CCC | C17H15I
reactant | 4-ethynyl-1,2-difluorobenzene | C(#C)C1=CC(=C(C=C1)F)F | C8H4F2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
catalyst | tetrakis(triphenylphosphine)palladium | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-propyl-7-(3,4-difluorophenylethynyl)phenanthrene | C(CC)C1=CC=2C=CC3=CC(=CC=C3C2C=C1)C#CC1=CC(=C(C=C1)F)F | C25H18F2
